US05459151
2-[4-(3-Cycloheptylidenemethyl-4-methoxy-phenyl)-piperidin-1-yl]-N-hydroxy-2-oxo-acetamide
To a stirred solution of 2-[4-(3-cycloheptylidenemethyl-4-methoxy-phenyl)-piperidin-1-yl]-oxo-acetic acid ethyl ester (0.6 mmol, 0.250 g) in methanol (5 mL) was added hydroxylamine.HCl (2.4 mmol, 0.167 g, followed by KOH/MeOH solution (5M, 600 μL) dropwise at room temperature. A white solid precipitated out of solution at this reaction continued to stir overnight at room temperature. The reaction went to completion as seen by TLC. The reaction mixture was diluted with H2O (150 mL), acidified with 1N HCl and then extracted with EtOAc (3×100 mL). Each organic phase was washed with H2O (1×100 mL) and the combined organics were dried (Na2SO4) and concentrated to yield a white solid. The solid was triturated in Et2O/hexane to afford the pure title compound, mp 135°-136° C. (0.3 mmol, 0.125 g, 54%).

reactant | 2-[4-(3-cycloheptylidenemethyl-4-methoxy-phenyl)-piperidin-1-yl]-oxo-acetic acid ethyl ester | 0.6 mmol, 0.250 g | C(C)OC(C(N1CCC(CC1)C1=CC(=C(C=C1)OC)C=C1CCCCCC1)=O)=O | C24H33NO4
reactant | hydroxylamine | NO | H3NO
reactant | HCl | Cl | ClH
reactant | KOH MeOH | 5M, 600 μL | [OH-].[K+].CO
solvent | methanol | 5 mL | CO | CH4O
product | 2-[4-(3-Cycloheptylidenemethyl-4-methoxy-phenyl)-piperidin-1-yl]-N-hydroxy-2-oxo-acetamide | C1(CCCCCC1)=CC=1C=C(C=CC1OC)C1CCN(CC1)C(C(=O)NO)=O | C22H30N2O4
